US07745438B2
(R)-4-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester
Combine (R)-4-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester (1.13 g, 2.71 mmol) and nickel (II) chloride (0.58 g, 4.485 mmol) in dry methanol (30 ml) and add sodium borohydride (0.454 g, 12 mmol) over 1 minute. Stir the resulting mixture for 20 minutes and then add water (3 mL). Concentrate and dissolve the residue in ethyl acetate. Filter the black solution through a pad of Celite® and wash the filter cake with ethyl acetate. Wash the filtrate with water (twice), saturated aqueous sodium chloride, dry (magnesium sulfate), filter, and concentrate to give the desired compound as a white solid (920 mg, 95%).

reactant | (R)-4-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 2.71 mmol, 1.13 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)[N+](=O)[O-])O)(C)C | C19H26F2N2O6
reactant | sodium borohydride | 12 mmol, 0.454 g | [BH4-].[Na+]
reactant | water | 3 mL | O | H2O
solvent | methanol | 30 ml | CO | CH4O
catalyst | nickel (II) chloride | 4.485 mmol, 0.58 g | [Ni](Cl)Cl
product | (R)-4-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 920 mg, 95% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)(C)C | C19H28F2N2O4
